US08003785B2
To a solution of 18 g (0.046 mole) of 3-[(2-chloro-5-nitro-pyrimidin-4-yl)-cyclohexyl-amino]-2,2-difluoro-propionic acid ethyl ester (IV-246) in 100 mL of acetic acid was added 15.5 g (0.191 g-atom) of iron powder. The mixture was heated to 80 degrees for 2 hours and then filtered while hot. Water and ethyl acetate were added to the filtrate and the mixture was stirred for 10 minutes. The organic layer was washed with ammonium hydroxide and water, dried over anhydrous sodium sulfate, filtered and concentrated under reduced pressure. The solid residue was washed with 50 mL of hexanes-EtOAc (90:10) and then air dried to give 10.5 g of 2-chloro-9-cyclohexyl-7,7-difluoro-5,7,8,9-tetrahydro-pyrimido[4,5-b][1,4]diazepin-6-one (VI-246).

reactant | 3-[(2-chloro-5-nitro-pyrimidin-4-yl)-cyclohexyl-amino]-2,2-difluoro-propionic acid ethyl ester | 0.046 mole, 18 g | C(C)OC(C(CN(C1CCCCC1)C1=NC(=NC=C1[N+](=O)[O-])Cl)(F)F)=O | C15H19ClF2N4O4
solvent | acetic acid | 100 mL | C(C)(=O)O | C2H4O2
catalyst | iron | 15.5 g | [Fe] | Fe
product | 2-chloro-9-cyclohexyl-7,7-difluoro-5,7,8,9-tetrahydro-pyrimido[4,5-b][1,4]diazepin-6-one | 10.5 g | ClC=1N=CC2=C(N(CC(C(N2)=O)(F)F)C2CCCCC2)N1 | C13H15ClF2N4O
